US08309721B2
Synthesis of 2-cyclohexylamino-4-[4-(6-fluoro-1H-benzimidazol-2-yl)-9H-carbazol-9-yl]benzamide
The process is carried out as in stage 3 of Example 3, but using 100 mg of 2-fluoro-4-[4-(6-fluoro-1H-benzimidazol-2-yl)-carbazol-9-yl]benzonitrile, obtained according to stage 2 of Example 3, 263 mg of potassium carbonate and 94 mg of cyclohexylamine in 0.8 ml of dimethyl sulphoxide. 0.4 ml of a 1M aqueous solution of sodium hydroxide, 0.4 ml of a 30% aqueous solution of hydrogen peroxide and 2 ml of ethanol are then added to the reaction medium. After treatment and purification as in stage 3 of Example 3, 40 mg of 2-cyclohexylamino-4-[4-(6-fluoro-1H-benzimidazol-2-yl)-9H-carbazol-9-yl]benzamide are thus obtained in the form of a white solid, the characteristics of which are the following:

reactant | 2-fluoro-4-[4-(6-fluoro-1H-benzimidazol-2-yl)-carbazol-9-yl]benzonitrile | 100 mg | FC1=C(C#N)C=CC(=C1)N1C2=CC=CC=C2C=2C(=CC=CC12)C1=NC2=C(N1)C=C(C=C2)F | C26H14F2N4
reactant | potassium carbonate | 263 mg | C([O-])([O-])=O.[K+].[K+]
reactant | cyclohexylamine | 94 mg | C1(CCCCC1)N | C6H13N
reactant | sodium hydroxide | [OH-].[Na+]
reactant | hydrogen peroxide | OO | H2O2
solvent | dimethyl sulphoxide | 0.8 ml | CS(=O)C | C2H6OS
solvent | ethanol | 2 ml | C(C)O | C2H6O
product | 2-cyclohexylamino-4-[4-(6-fluoro-1H-benzimidazol-2-yl)-9H-carbazol-9-yl]benzamide | C1(CCCCC1)NC1=C(C(=O)N)C=CC(=C1)N1C2=CC=CC=C2C=2C(=CC=CC12)C1=NC2=C(N1)C=C(C=C2)F | C32H28FN5O
